US09171676B2
I.2. 4-(5-bromothiophen-2-yl)benzaldehyde [YKP24]
In a two necked flask under argon, 0.75 g (3.98 mmol) of 4-(2-thienyl)benzaldehyde in 20 mL of dimethylformamide (DMF) are cooled to 0° C. 1.1 eq. (0.78 g, 4.38 mmol) of N-bromosuccinimide (NBS) are solubilised in a mixture of 10 mL of DMF and 10 mL of methanol. This solution of NBS (protected from light) is then added drop by drop (30 min) to the reaction medium. The temperature of the medium is then left to return to ambient temperature over 2 h. The medium is hydrolysed with a solution of 1 mol·L−1 HCl and extracted with ethyl ether. The combined organic phases are washed with a saturated NaCl solution then dried on anhydrous Na2SO4. After filtration and evaporation to dryness, the reaction mixture is recrystallised with acetone.

reactant | 4-(2-thienyl)benzaldehyde | 3.98 mmol, 0.75 g | S1C(=CC=C1)C1=CC=C(C=O)C=C1 | C11H8OS
reactant | N-bromosuccinimide | 4.38 mmol, 0.78 g, 1.1 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HCl | 1 mol·L−1 | Cl | ClH
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | 10 mL | CO | CH4O
product | 4-(5-bromothiophen-2-yl)benzaldehyde | BrC1=CC=C(S1)C1=CC=C(C=O)C=C1 | C11H7BrOS
